US09216173B2
To a microwave vial were added 3-bromo-5-fluoropyridine-2-carbonitrile (150 mg, 0.746 mmol), tert-butyl [(2S)-1-aminopropan-2-yl]carbamate hydrochloride (157 mg, 0.755 mmol), DIPEA (0.260 mL, 1.49 mmol), and N-methyl-2-pyrrolidone (1.5 mL). The mixture was then heated by microwave irradiation to a temperature of 150° C. for 30 minutes. The reaction mixture was cooled to room temperature and then diluted with ethyl acetate and washed with water. The organics were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel to afford tert-butyl {(2S)-1-[(5-bromo-6-cyanopyridin-3-yl)amino]propan-2-yl}carbamate. MS ESI calc'd. for C14H20BrN4O2 [M+H]+ 355 and 357. found 355 and 357.

reactant | 3-bromo-5-fluoropyridine-2-carbonitrile | 0.746 mmol, 150 mg | BrC=1C(=NC=C(C1)F)C#N | C6H2BrFN2
reactant | tert-butyl [(2S)-1-aminopropan-2-yl]carbamate hydrochloride | 0.755 mmol, 157 mg | Cl.NC[C@H](C)NC(OC(C)(C)C)=O
reactant | DIPEA | 1.49 mmol, 0.260 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methyl-2-pyrrolidone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {(2S)-1-[(5-bromo-6-cyanopyridin-3-yl)amino]propan-2-yl}carbamate | BrC=1C=C(C=NC1C#N)NC[C@H](C)NC(OC(C)(C)C)=O | C14H19BrN4O2
